US07888338B2
a) Preparation of 2-bromo-3-ethoxy-cyclohex-2-enone (1)
To a solution of 3-ethoxy-2-cyclohexenone (70 g, 499 mmol) in CH2Cl2 (300 mL) as a solvent at 0° C. under argon atmosphere was added in portions N-bromosuccinimide (91 g, 511 mmol) over a period of 1 hour. The suspension was stirred at 0° C. for 1 hour and then at room temperature for 2 hours. The solvent was removed in vacuo and CH2Cl2 added. The solution was washed twice with a cold saturated NaHCO3 solution and with cold H2O, then dried over anhydrous MgSO4, the solvent removed in vacuo and the resulting solid residue was triturated several times with Et2O, the resulting solid dried in vacuo to afford 101 g (92% yield) of the desired product as white crystals which were characterized as follows:

reactant | 3-ethoxy-2-cyclohexenone | 499 mmol, 70 g | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | N-bromosuccinimide | 511 mmol, 91 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-3-ethoxy-cyclohex-2-enone | 101 g, 92% yield | BrC=1C(CCCC1OCC)=O | C8H11BrO2
